US04359323
FIG. 2 illustrates the use of the system of FIG. 1 for the analysis of a sample which contains amines. The mobile phase contains sodium dodecyl sulfate, methanol, water and sodium phosphate to adjust the pH to 2.5, which functions as the elutriant and peri-naphthindan-2,3,4-trione hydrate which functions as the reactant component. The sample to be analyzed contains glycinamide, glycinonitrile, and glycine. The objective in this instance is to detect the glycine and glycinamide in this mixture. The mobile phase is pumped through the system at the rate of 2 ml/min. The chromatographic column is of the reverse phase type and is maintained at 25° C. The oven which contains the reaction column was maintained at 105° C., and is packed with non-porous glass beads. The above components of the mixture were separated in the separation column 9, and were reacted in the reaction column 12 with the peri-naphthindan-2,3,4-trione hydrate of the mobile phase to yield di-hydroxy peri-naphthindenone as the principal reaction product. The compound which absorbs light energy in the frequency range of 380 nm was flowed with the mobile phase to the photometric detector which was set to scan this part of the visible spectrum. With particular reference to FIG. 2, the inverted peak F represents the dead volume of the system. G and H are the glycine and glycinamide peaks with peak I showing the presence of glycinonitrile. The area under the glycine and glycinamide peaks represents the relative amount of each of these materials present in the sample.

reactant | sodium dodecyl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | sodium phosphate | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | naphthindan-2,3,4-trione hydrate | O.C1C(C(C=2C3=C(C=CC12)C1=CC=CC=C1CC3=O)=O)=O
reactant | glycinamide | NCC(=O)N | C2H6N2O
reactant | glycinonitrile | C(C#N)N | C2H4N2
reactant | glycine | NCC(=O)O | C2H5NO2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | naphthindenone | C1(C=CC=2C3=C(C=CC12)C1=CC=CC=C1C=C3)=O | C17H10O
